US06153652
Synthesis of 2-[(3,5-dichlorophenyl)acetamido]hexanoic acid methyl ester
Following General Procedure F' above, an using 3,5-dichlorophenylacetic acid (from Example C' above) and L-norleucine methyl ester hydrochloride (Bachem), the title compound was prepared as a solid having a melting point of 77°-78° C. The reaction was monitored by tlc on silica gel (Rf=0.70 in 40% EtOAC/hexanes) and purification was by flash chromatography on silica gel using 40% EtOAc/hexanes as the eluant.

reactant | 3,5-dichlorophenylacetic acid | ClC=1C=C(C=C(C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | L-norleucine methyl ester hydrochloride | Cl.COC([C@@H](N)CCCC)=O
product | 2-[(3,5-dichlorophenyl)acetamido]hexanoic acid methyl ester | COC(C(CCCC)NC(CC1=CC(=CC(=C1)Cl)Cl)=O)=O | C15H19Cl2NO3
